data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:21]1[cH:14][n:18][c:24]2[c:32]([n+:17]([O-:16])[o:22][n:38]2)[cH:33]1)(=[O:34])[O-:36].[c:2]1([P:19]([c:3]2[cH:10][cH:28][cH:6][cH:29][cH:11]2)([c:4]2[cH:12][cH:30][cH:7][cH:31][cH:13]2)=[CH:35][C:25]([O:20][CH2:15][CH3:37])=[O:23])[cH:8][cH:26][cH:5][cH:27][cH:9]1>>[N+:1](=[C:21]1[CH:14]=[N:18][c:24]2[c:32]([n+:17]([O-:16])[o:22][n:38]2)[CH:33]1[CH:35]([P+:19]([c:2]1[cH:8][cH:26][cH:5][cH:27][cH:9]1)([c:3]1[cH:10][cH:28][cH:6][cH:29][cH:11]1)[c:4]1[cH:12][cH:30][cH:7][cH:31][cH:13]1)[C:25]([O:20][CH2:15][CH3:37])=[O:23])([O-:34])[O-:36]", "epd": [["Pi-/Sigma+", [35, 19], [35, 33]], ["Pi-/Pi+", [33, 21], [21, 1]], ["Pi-/LP+", [1, 34], [34]]]}
{"reaction_name": "Acetal-derived oxocarbenium substitution", "rsmi": "[CH3:1][O+:2]=[CH2:3].[CH3:4][O:5][H:6]>>[CH3:1][O:2][CH2:3][O+:5]([H:6])[CH3:4]", "epd": [["LP-/Sigma+", [5], [3, 5]], ["Pi-/LP+", [2, 3], [2]]]}
{"reaction_name": "Intramolecular Michael addition", "rsmi": "[C:1](=[O:3])([CH-:6][CH2:2][CH2:4][CH:5]=[CH:7][C:10](=[O:9])[CH3:11])[CH3:8]>>[C:1](=[O:3])([CH:6]1[CH2:2][CH2:4][CH:5]1[CH-:7][C:10](=[O:9])[CH3:11])[CH3:8]", "epd": [["LP-/Sigma+", [6], [5, 6]], ["Pi-/LP+", [5, 7], [7]]]}
{"reaction_name": "Michael addition", "rsmi": "[S:6]([c:10]1[cH:23][cH:15][cH:12][cH:18][cH:26]1)([C:22]([S:7]([c:11]1[cH:24][cH:16][cH:13][cH:17][cH:25]1)(=[O:32])=[O:33])=[CH2:8])(=[O:34])=[O:35].[cH:1]1[c:29]([CH:9]=[C:19]2[S:4][c:27]3[cH:20][cH:5][cH:14][cH:3][c:21]3[N:37]2[CH3:28])[cH:2][cH:31][cH:36][cH:30]1>>[cH:1]1[c:29]([CH:9]([CH2:8][C-:22]([S:6]([c:10]2[cH:23][cH:15][cH:12][cH:18][cH:26]2)(=[O:34])=[O:35])[S:7]([c:11]2[cH:24][cH:16][cH:13][cH:17][cH:25]2)(=[O:32])=[O:33])[c:19]2[s:4][c:27]3[cH:20][cH:5][cH:14][cH:3][c:21]3[n+:37]2[CH3:28])[cH:2][cH:31][cH:36][cH:30]1", "epd": [["LP-/Pi+", [37], [19, 37]], ["Pi-/Sigma+", [9, 19], [9, 8]], ["Pi-/LP+", [8, 22], [22]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:2]([O:11][C:22](=[O:8])[N:18]=[CH:10][c:6]1[cH:3][cH:14][cH:17][cH:15][cH:4]1)([CH3:19])([CH3:20])[CH3:21].[S:1]([c:5]1[cH:23][cH:12][cH:9][cH:13][cH:24]1)([O-:7])=[O:16]>>[S+:1]([c:5]1[cH:23][cH:12][cH:9][cH:13][cH:24]1)([O-:7])([CH:10]([c:6]1[cH:3][cH:14][cH:17][cH:15][cH:4]1)[N:18]=[C:22]([O-:8])[O:11][C:2]([CH3:19])([CH3:20])[CH3:21])=[O:16]", "epd": [["LP-/Sigma+", [1], [1, 10]], ["Pi-/Pi+", [10, 18], [18, 22]], ["Pi-/LP+", [22, 8], [8]]]}
{"reaction_name": "Thia-Michael addition", "rsmi": "[CH3:1][CH2:8][O:7][C:20]([CH:2]=[C:9]([CH3:21])[N:27]=[N:15][C:3](=[O:16])[NH:19][c:22]1[cH:25][cH:10][cH:23][cH:11][cH:26]1)=[O:17].[cH:4]1[cH:12][c:18]([S-:28])[cH:13][cH:5][c:14]1[O:24][CH3:6]>>[CH3:1][CH2:8][O:7][C:20]([CH:2]([C:9]([CH3:21])=[N:27][N:15]=[C:3]([O-:16])[NH:19][c:22]1[cH:25][cH:10][cH:23][cH:11][cH:26]1)[S:28][c:18]1[cH:12][cH:4][c:14]([O:24][CH3:6])[cH:5][cH:13]1)=[O:17]", "epd": [["LP-/Sigma+", [28], [28, 2]], ["Pi-/Pi+", [2, 9], [9, 27]], ["Pi-/Pi+", [27, 15], [15, 3]], ["Pi-/LP+", [3, 16], [16]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[C:1]1(=[O:3])[N-:2][CH2:12][CH2:13][O:6]1.[CH3:4][O:5][c:7]1[cH:23][cH:14][c:11]([CH:20]=[C:19]2[CH:21]=[C:8]([Br:17])[C:10](=[O:16])[C:9]([Br:18])=[CH:22]2)[cH:15][cH:24]1>>[C:1]1(=[O:3])[N:2]([CH:20]([c:11]2[cH:14][cH:23][c:7]([O:5][CH3:4])[cH:24][cH:15]2)[c:19]2[cH:21][c:8]([Br:17])[c:10]([O-:16])[c:9]([Br:18])[cH:22]2)[CH2:12][CH2:13][O:6]1", "epd": [["LP-/Sigma+", [2], [2, 20]], ["Pi-/Pi+", [20, 19], [19, 21]], ["Pi-/Pi+", [21, 8], [8, 10]], ["Pi-/LP+", [10, 16], [16]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[S:4]1(=[O:28])(=[O:29])[c:19]2[c:7]([cH:11][cH:5][cH:24][cH:9]2)[C:26]([O-:8])=[N:25]1.[cH:1]1[cH:2][cH:16][cH:6][c:10]2[c:3]1[N+:21]([CH3:13])=[CH:15][C:14]2=[CH:12][c:20]1[cH:17][cH:22][cH:27][cH:23][cH:18]1>>[cH:1]1[cH:2][cH:16][cH:6][c:10]2[c:3]1[n:21]([CH3:13])[cH:15][c:14]2[CH:12]([c:20]1[cH:17][cH:22][cH:27][cH:23][cH:18]1)[N:25]1[S:4](=[O:28])(=[O:29])[c:19]2[c:7]([cH:11][cH:5][cH:24][cH:9]2)[C:26]1=[O:8]", "epd": [["LP-/Pi+", [8], [26, 8]], ["Pi-/Sigma+", [25, 26], [25, 12]], ["Pi-/Pi+", [12, 14], [14, 15]], ["Pi-/LP+", [15, 21], [21]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:4][C:18]([F:5])([F:6])[F:7])[S:2](=[O:21])(=[O:22])[c:8]2[c:24]([cH:23][cH:10][cH:25][cH:28]2)[C:26]1=[O:20].[cH:3]1[cH:13][cH:11][c:17]2[c:9]([cH:27]1)[CH:29]([Zn-:16]([Cl:14])[Cl:15])[CH:19]=[CH:12]2>>[Cl:14][Zn:16][Cl:15].[N:1]1=[C:26]([O-:20])[c:24]2[c:8]([cH:28][cH:25][cH:10][cH:23]2)[S:2]1(=[O:21])=[O:22].[cH:3]1[cH:13][cH:11][c:17]2[c:9]([cH:27]1)[CH:29]([S:4][C:18]([F:5])([F:6])[F:7])[CH:19]=[CH:12]2", "epd": [["Sigma-/Sigma+", [29, 16], [29, 4]], ["Sigma-/Pi+", [4, 1], [1, 26]], ["Pi-/LP+", [26, 20], [20]]]}
